US06548667B2
Preparation of (2R)-3-methyl-2-[(ethylthio-6-benzthiazolsulfonyl)benzylamino]butanoic Acid Methylester and Other Derivatives
(2R)-3-methyl-2-[(2-ethylthiobenzthiazol-6-sulfonyl)amino]butanoic acid methylester (0.16 g, 0.376 mmol) prepared in a similar manner as in Example 14 was dissolved in DMF (1 mL). K2CO3 (150 mg, 3 equi.) and benzylbromide (0.056 mL, 1.3 equi.) were added at RT. After stirring the reaction solution for 1 hour at RT, ethylacetate (5 mL) and H2O were added to afford the phase separation, when starting material was exhausted. The separated organic phase was washed with H2O for several times, dried over MgSO4 and distilled under reduced pressure to prepare the titled compound, (2R)-3-methyl-2-[(ethylthio-6-benzthiazolsulfonyl)benzylamino]butanoic acid methylester (180 mg, 100%).

reactant | (2R)-3-methyl-2-[(2-ethylthiobenzthiazol-6-sulfonyl)amino]butanoic acid methylester | 0.376 mmol, 0.16 g | COC([C@@H](C(C)C)NS(=O)(=O)C1=CC2=C(N=C(S2)SCC)C=C1)=O | C15H20N2O4S3
reactant | K2CO3 | 150 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylbromide | 0.056 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethylacetate | 5 mL | C(C)OC(C)=O | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | (2R)-3-methyl-2-[(ethylthio-6-benzthiazolsulfonyl)benzylamino]butanoic Acid Methylester | COC([C@@H](C(C)C)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC2=C(N=C(S2)SCC)C=C1)=O | C22H26N2O4S3
